US04772600
2-(3-Chlorophenyl)-N-(1-ethyl-3-pyrrolidinyl)-3H-imidazo[4,5-b]pyridine-3-acetamide hydrochloride hydrate[1:2:0.5]
A solution of 2-(3-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid (5.0 g, 0.0174 mole), 1,1'-carbonyldiimidazole (2.82 g, 0.0174 mole) and anhydrous tetrahydrofuran (100 ml) was stirred at room temperature with a stream of nitrogen bubbling through it for 3 hours. The nitrogen flow was stopped and a solution of 1-ethyl-3-aminopyrrolidine (2.18 g, 0.0192 mole) in dry tetrahydrofuran (25 ml) was added. The solution was stirred at room temperature under nitrogen for 1 hour. The reaction mixture was concentrated in vacuo and the residue triturated in potassium bicarbonate solution (75 ml) and filtered. The filter cake was washed with water and recrystallized from isopropyl alcohol-isopropyl ether to give 2.25 g (28%) of beige solid, mp 154°-157° C.

reactant | 2-(3-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.0174 mole, 5.0 g | ClC=1C=C(C=CC1)C1=NC=2C(=NC=CC2)N1CC(=O)O | C14H10ClN3O2
reactant | 1,1'-carbonyldiimidazole | 0.0174 mole, 2.82 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 1-ethyl-3-aminopyrrolidine | 0.0192 mole, 2.18 g | C(C)N1CC(CC1)N | C6H14N2
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-(3-Chlorophenyl)-N-(1-ethyl-3-pyrrolidinyl)-3H-imidazo[4,5-b]pyridine-3-acetamide hydrochloride hydrate | 2.25 g, 28% | O.Cl.ClC=1C=C(C=CC1)C1=NC=2C(=NC=CC2)N1CC(=O)NC1CN(CC1)CC | InChI=1S/C20H22ClN5O.ClH.H2O/c1-2-25-10-8-16(12-25)23-18(27)13-26-19(14-5-3-6-15(21)11-14)24-17-7-4-9-22-20(17)26;;/h3-7,9,11,16H,2,8,10,12-13H2,1H3,(H,23,27);1H;1H2
